US06083952
b) 2,3-Dichloro-6-iodobenzoic acid chloride
DMF (one drop) was added to a stirred solution of 2,3-dichloro-6-iodobenzoic acid (1.53 g, 4.83 mmol) and oxalyl chloride (2 ml) in ethyl acetate (20 ml). After 2 hours, the solution was evaporated and the product was used immediately.

reactant | 2,3-dichloro-6-iodobenzoic acid | 4.83 mmol, 1.53 g | ClC1=C(C(=O)O)C(=CC=C1Cl)I | C7H3Cl2IO2
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2,3-Dichloro-6-iodobenzoic acid chloride | ClC1=C(C(=O)Cl)C(=CC=C1Cl)I | C7H2Cl3IO
